US08193228B2
A suspension of (2R)-1,1,1-trifluoro-2-[4-(1H-pyrazol-1-yl)phenyl]-3-(4-{[1-(trifluoromethyl)cyclopropyl]methyl}-1H-imidazol-2-yl)propan-2-ol in acetic acid (10 mL)/acetic anhydride (10 mL) was heated to reflux. The reaction mixture was poured into 1M sodium hydroxide solution until basic and extracted with diethyl ether. The crude product was dissolved in a mixture of methanol and acetonitrile and charged with 1M sodium hydroxide. It was heated to reflux overnight, and the reaction mixture was extracted with diethyl ether. The combined organic extracts were washed with brine, dried (potassium carbonate) and concentrated in vacuo to afford 1-{4-[(Z)-1-(trifluoromethyl)-2-(4-{[1-(trifluoromethyl)cyclopropyl]methyl}-1H-imidazol-2-yl)vinyl]phenyl}-1H-pyrazole, which was used without further purification.

reactant | (2R)-1,1,1-trifluoro-2-[4-(1H-pyrazol-1-yl)phenyl]-3-(4-{[1-(trifluoromethyl)cyclopropyl]methyl}-1H-imidazol-2-yl)propan-2-ol | FC([C@](CC=1NC=C(N1)CC1(CC1)C(F)(F)F)(O)C1=CC=C(C=C1)N1N=CC=C1)(F)F | C20H18F6N4O
reactant | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 1-{4-[(Z)-1-(trifluoromethyl)-2-(4-{[1-(trifluoromethyl)cyclopropyl]methyl}-1H-imidazol-2-yl)vinyl]phenyl}-1H-pyrazole | FC(\C(=C/C=1NC=C(N1)CC1(CC1)C(F)(F)F)\C1=CC=C(C=C1)N1N=CC=C1)(F)F | C20H16F6N4
